US08058441B2
(b). 1-Acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4,7-tetramethylquinoline
AlCl3 (266 mg) was added to a heated (70° C.) solution of 1-acetyl-6-amino-1,2-dihydro-2,2,4,7-tetramethylquinoline (100 mg) in benzene (10 ml). After 3 h, the mixture was cooled and concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with water. The organic layer was separated, dried (MgSO4) and concentrated in vacuo. The residue was chromatographed on silicagel in heptane/ethyl acetate=1/03/1 (v/v) as eluent.

reactant | AlCl3 | 266 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1-acetyl-6-amino-1,2-dihydro-2,2,4,7-tetramethylquinoline | 100 mg | C(C)(=O)N1C(C=C(C2=CC(=C(C=C12)C)N)C)(C)C | C15H20N2O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 1-Acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4,7-tetramethylquinoline | C(C)(=O)N1C(CC(C2=CC(=C(C=C12)C)N)(C)C1=CC=CC=C1)(C)C | C21H26N2O
